US08222266B2
Preparation 12: 1-(4-Chloro-butyl)-5-methyl-4-pyridin-3-yl-1H-pyrimidin-2-one (Prep12)
To a solution of 5-methyl-4-pyridin-3-yl-1H-pyrimidin-2-one (100 mg, 0.53 mmol) in DMSO (2 ml), 60% NaH (23 mg, 0.59 mmol) was added portionwise. After heating the mixture at 60° C. for 1 hour, 1-bromo-4-chloro-butane (100 mg, 0.59 mmol) dissolved in DMSO (0.8 ml) was added at 60° C. and the heating was maintained for further 2 hours. After cooling to room temperature, water was added and the mixture extracted with diethyl ether to remove the dialkylated product and finally with ethyl acetate. Ethyl acetate was washed with brine, dried (Na2SO4) and evaporated to afford 100 mg of the title compound as yellow oil (68% yield).

reactant | 5-methyl-4-pyridin-3-yl-1H-pyrimidin-2-one | 0.53 mmol, 100 mg | CC=1C(=NC(NC1)=O)C=1C=NC=CC1 | C10H9N3O
reactant | NaH | 0.59 mmol, 23 mg | [H-].[Na+]
reactant | 1-bromo-4-chloro-butane | 0.59 mmol, 100 mg | BrCCCCCl | C4H8BrCl
reactant | water | O | H2O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMSO | 0.8 ml | CS(=O)C | C2H6OS
product | 1-(4-Chloro-butyl)-5-methyl-4-pyridin-3-yl-1H-pyrimidin-2-one | 100 mg, 68% yield | ClCCCCN1C(N=C(C(=C1)C)C=1C=NC=CC1)=O | C14H16ClN3O
